US08623937B2
Octanoyl chloride (18.0 g, 0.111 mol) is added dropwise over 30 minutes to a solution of 3-mercaptopropyldimethoxymethylsilane F with CAS number [31001-77-1] (20.0 g, 0.111 mol) and triethylamine (11.2 g, 0.111 mol) in cyclohexane (200 mL) kept at 5° C. under an inert atmosphere. The temperature of the reaction medium remains between 5 and 8° C. The reaction medium is then stirred for 15 hours at room temperature. The precipitate of triethylamine hydrochloride Et3N.HCl is filtered over celite. After evaporating the solvents under reduced pressure at 25° C., S-octanoylmercaptopropyl-dimethoxymethylsilane G with CAS number [828241-23-2] (32.6 g, 0.106 mol) is obtained in the form of a colourless oil with a yield of 96%.

reactant | Octanoyl chloride | 0.111 mol, 18.0 g | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | 3-mercaptopropyldimethoxymethylsilane | SCCC[SiH2]C(OC)OC | C6H16O2SSi
reactant | triethylamine | 0.111 mol, 11.2 g | C(C)N(CC)CC | C6H15N
solvent | cyclohexane | 200 mL | C1CCCCC1 | C6H12
product | S-octanoylmercaptopropyl-dimethoxymethylsilane | yield of 96% | C(CCCCCCC)(=O)SCCC[SiH2]C(OC)OC | C14H30O3SSi
